US04153611
Preparation of 1-isopropyl-3-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)urea.
In dry tetrahydrofuran, stoichiometric quantities of isopropyl isocyanate, 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride, and triethylamine are stirred at room temperature for 2 hours and then heated at reflux for half an hour. The title product is then collected and washed with water.

reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
reactant | 5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophen-4-amine hydrochloride | Cl.S1C2=C(C=C1)C(CCCC2)N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-isopropyl-3-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)urea | C(C)(C)NC(=O)NC1CCCCC=2SC=CC21 | C13H20N2OS
